US08293923B2
Step 6: (1-cyclohexyl-2-(5-(4-methoxypyridin-3-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazol-3-ylamino)-1H-benzo[d]imidazol-5-yl)methanol
In a small microwave tube was added (2-(5-bromo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazol-3-ylamino)-1-cyclohexyl-1H-benzo[d]imidazol-5-yl)methanol (164 mg, 0.000287 mol), 4-methoxypyridin-3-ylboronic acid (79.1 mg, 0.000517 mol) and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II),complex with dichloromethane (1:1) (47 mg, 0.000057 mol). To this mixture was added 1,4-dioxane (4.3 mL, 0.055 mol) and the resultant mixture was stirred under an argon atmosphere. To this mixtrure was then added 2 M sodium carbonate in water (700 uL) and the reaction mixture was microwaved for 21 minutes at 120° C. The reaction mixture filtered through a syringe filter cartridge and the cartridge washed 3 times with methanol. The residue after concentration was purified by flash chromatography using a 40 g silica gel cartridge and 10-60% ethyl acetate/hexane gradient. The product fractions were concentrated to give the title compound (29 mg).

reactant | (2-(5-bromo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazol-3-ylamino)-1-cyclohexyl-1H-benzo[d]imidazol-5-yl)methanol | 0.000287 mol, 164 mg | BrC=1C=C2C(=NN(C2=CC1)COCC[Si](C)(C)C)NC1=NC2=C(N1C1CCCCC1)C=CC(=C2)CO | C27H36BrN5O2Si
reactant | 4-methoxypyridin-3-ylboronic acid | 0.000517 mol, 79.1 mg | COC1=C(C=NC=C1)B(O)O | C6H8BNO3
reactant | dichloromethane | 0.000057 mol, 47 mg | ClCCl | CH2Cl2
reactant | 1,4-dioxane | 0.055 mol, 4.3 mL | O1CCOCC1 | C4H8O2
reactant | sodium carbonate | 2 M | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 700 uL | O | H2O
product | (1-cyclohexyl-2-(5-(4-methoxypyridin-3-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazol-3-ylamino)-1H-benzo[d]imidazol-5-yl)methanol | 29 mg | C1(CCCCC1)N1C(=NC2=C1C=CC(=C2)CO)NC2=NN(C1=CC=C(C=C21)C=2C=NC=CC2OC)COCC[Si](C)(C)C | C33H42N6O3Si
